US07696347B2
4-Cyclopropylmethoxymethyl-biphenyl
To a mixture of 4-chlorobiphenyl (50 mg, 265 μmol) and 1,4-dioxane (2 ml) were added water (0.2 ml), cesium carbonate (259 mg, 795 μmol), potassium cyclopropylmethoxymethyl trifluoroborate (102 mg, 530 mol), palladium (II) acetate (5.95 mg, 27 μmol) and 2-dicycrohexylphospino-2′,6′-dimethoxybiphenyl (21.8 mg, 53.1 μmol). Then, the reaction mixture was stirred at 100° C. (external temperature) for 7 hours and 30 minutes. After the reaction mixture was cooled at room temperature, water and heptane were added to the mixture, followed by filtration using Celite. The separated organic layer was washed with an aqueous saturated sodium chloride solution. The organic layer was separated, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=30:1) to obtain the title compound (57 mg, 239 μmol, 90%).

reactant | 4-chlorobiphenyl | 265 μmol, 50 mg | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | water | 0.2 ml | O | H2O
reactant | cesium carbonate | 795 μmol, 259 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | heptane | CCCCCCC | C7H16
catalyst | palladium (II) acetate | 27 μmol, 5.95 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Cyclopropylmethoxymethyl-biphenyl | 239 μmol, 57 mg, 90% | C1(CC1)COCC1=CC=C(C=C1)C1=CC=CC=C1 | C17H18O
